US05552427
According to the same manner as that in Example 1, 2-(dimethylaminomethylene)amino-1-(2-propynyl)imidazole (0.2 g) was treated with 6N hydrochloric acid to give 2-amino-1-(2-propynyl)imidazole hydrochloride (0.12 g, Yield: 54%).

reactant | 2-(dimethylaminomethylene)amino-1-(2-propynyl)imidazole | 0.2 g | CN(C)C=NC=1N(C=CN1)CC#C | C9H12N4
reactant | hydrochloric acid | 6N | Cl | ClH
product | 2-amino-1-(2-propynyl)imidazole hydrochloride | 0.12 g, Yield: 54% | Cl.NC=1N(C=CN1)CC#C | InChI=1S/C6H7N3.ClH/c1-2-4-9-5-3-8-6(9)7;/h1,3,5H,4H2,(H2,7,8);1H
